US04139617
Substituting 19-t-butyldimethylsiloxy-5-androstene-3,17-dione, 4α-methyl-17β,19-di(4'-tetrahydropyranyloxy)-5-androsten-3-one and 1β-methyl-19-(4'-tetrahydropyranyloxy)-5-androstene-3,17-dione for the 17β,19-dihydroxy-5-androsten-3-one above results in the preparation of 19-t-butyldimethylsiloxy-5-androstene-3α,17-diol, 4α-methyl-17β,19-di(4'-tetrahydropyranyloxy)-5-androsten-3α-ol and 1β-methyl-19-(4'-tetrahydropyranyloxy)-5-androstene-3α,17β-diol, respectively.

reactant | 19-t-butyldimethylsiloxy-5-androstene-3,17-dione | O([Si](C)(C)C(C)(C)C)C[C@]12CCC(CC1=CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C25H40O3Si
reactant | 17β,19-dihydroxy-5-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3CC(CC[C@]3(CO)[C@H]1CC2)=O | C19H28O3
product | 19-t-butyldimethylsiloxy-5-androstene-3α,17-diol | O([Si](C)(C)C(C)(C)C)C[C@]12CC[C@H](CC1=CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)O)O | C25H44O3Si
